US05550240
Preparation of 4,6-bis(4,4-ethylenedioxy-1-piperidinyl)-2-(1-piperazinyl)pyrimidine
The reaction of 4,6-bis(4,4-ethylenedioxy-1-piperidinyl)-2-chloropyrimidine with piperazine as described in Example 4 gives the title compound in a yield of 58.9%, m.p.: 122°-126° C.

reactant | 4,6-bis(4,4-ethylenedioxy-1-piperidinyl)-2-chloropyrimidine | C1OC2(CCN(CC2)C2=NC(=NC(=C2)N2CCC3(CC2)OCCO3)Cl)OC1 | C18H25ClN4O4
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 4,6-bis(4,4-ethylenedioxy-1-piperidinyl)-2-(1-piperazinyl)pyrimidine | yield of 58.9% | C1OC2(CCN(CC2)C2=NC(=NC(=C2)N2CCC3(CC2)OCCO3)N3CCNCC3)OC1 | C22H34N6O4
